US07504508B2
Methyl 4-(4-{[(2S,4R)-4-[acetyl(4-chloro-2-methylphenyl)amino]-2-methyl-3,4-dihydroquinolin-1(2H)-yl]carbonyl}phenoxy)-2,2-dimethylbutanoate (60 mg, 0.10 mmol, 1 equ.) was dissolved in methanol/tetrahydrofuran (2/1) (0.8 ml). A solution of sodium hydroxide (12 mg, 0.30 mmol, 3 eq.) in water (0.3 ml) was added and reaction mixture heated to 40° C. for 2 h. The mixture was concentrated and the residue was acidified with a 1N HCl aqueous solution and extracted with ethyl acetate. The organic layer was washed with brine, dried over magnesium sulfate, filtered and concentrated to give 4-(4-{[(2S,4R)-4-[acetyl(4-chloro-2-methylphenyl)amino]-2-methyl-3,4-dihydroquinolin-1(2H)-yl]carbonyl}phenoxy)-2,2-dimethylbutanoic acid (50 mg, 89%).

reactant | Methyl 4-(4-{[(2S,4R)-4-[acetyl(4-chloro-2-methylphenyl)amino]-2-methyl-3,4-dihydroquinolin-1(2H)-yl]carbonyl}phenoxy)-2,2-dimethylbutanoate | 0.10 mmol, 60 mg | C(C)(=O)N([C@@H]1C[C@@H](N(C2=CC=CC=C12)C(=O)C1=CC=C(OCCC(C(=O)OC)(C)C)C=C1)C)C1=C(C=C(C=C1)Cl)C | C33H37ClN2O5
reactant | sodium hydroxide | 0.30 mmol, 12 mg, 3 eq. | [OH-].[Na+]
solvent | methanol tetrahydrofuran | 0.8 ml | CO.O1CCCC1
solvent | water | 0.3 ml | O | H2O
product | 4-(4-{[(2S,4R)-4-[acetyl(4-chloro-2-methylphenyl)amino]-2-methyl-3,4-dihydroquinolin-1(2H)-yl]carbonyl}phenoxy)-2,2-dimethylbutanoic acid | 50 mg, 89% | C(C)(=O)N([C@@H]1C[C@@H](N(C2=CC=CC=C12)C(=O)C1=CC=C(OCCC(C(=O)O)(C)C)C=C1)C)C1=C(C=C(C=C1)Cl)C | C32H35ClN2O5
